US09326516B2
1-(1-(4-Fluorophenyl)-2-hydroxyethyl)-3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea (C20)
The title compound was prepared with 2-amino-2-(4-fluorophenyl)ethanol and 3-(4-isothiocyanatophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole and isolated as a white solid (1.4 g, 99%): 1H NMR (300 MHz, CDCl3) δ 8.07 (s, 1H), 7.67 (d, J=8.1 Hz, 2H), 7.31 (d, J=8.4 Hz, 2H), 7.21 (d, J=8.6 Hz, 2H), 6.82-6.67 (m, 4H), 6.44 (q, J=7.7, 7.1 Hz, 4H), 6.33 (d, J=8.3 Hz, 1H), 5.09 (s, 1H), 3.44 (dd, J=10.9, 4.2 Hz, 1H), 3.32 (dd, J=11.2, 4.7 Hz, 1H); ESIMS m/z 502 ([M+H]+).

reactant | 2-amino-2-(4-fluorophenyl)ethanol | NC(CO)C1=CC=C(C=C1)F | C8H10FNO
reactant | 3-(4-isothiocyanatophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C16H9F3N4S
product | 1-(1-(4-Fluorophenyl)-2-hydroxyethyl)-3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea | FC1=CC=C(C=C1)C(CO)NC(=S)NC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C24H19F4N5OS
